US07951956B2
Sodium hydrogensulfite (0.87 g, 8.4 mmol) and 3,5-dimethyl-4-formylpyrrole-2-carboxylic acid ethyl ester (1.64 g, 8.4 mmol) were added to an N,N-dimethyl acetamide (25 ml) solution of 4-phenoxy-1,2-phenylenediamine (1.60 g, 8.0 mmol) reported in the references, and the reaction mixture was heated to 110° C. and stirred for 18 hours. The reaction mixture was allowed to cool to room temperature, and a 5% sodium carbonate was added. The mixture was extracted with ethyl acetate, and the extract was washed with water and a saturated sodium chloride, and then dried with anhydrous sodium sulfate. The desiccant was filtered off, and then the residue obtained by evaporation at reduced pressure was purified using medium pressure silica gel flash column chromatography (methanol:chloroform=1:100 to 1:30) to afford 4-(5-phenoxybenzimidazole-2-yl)-3,5-dimethylpyrrole-2-carboxylic acid ethyl ester (2.27 g, 76%) as a light yellow solid.

reactant | Sodium hydrogensulfite | 8.4 mmol, 0.87 g | S(=O)(O)[O-].[Na+]
reactant | 3,5-dimethyl-4-formylpyrrole-2-carboxylic acid ethyl ester | 8.4 mmol, 1.64 g | C(C)OC(=O)C=1NC(=C(C1C)C=O)C | C10H13NO3
reactant | 4-phenoxy-1,2-phenylenediamine | 8.0 mmol, 1.60 g | O(C1=CC=CC=C1)C1=CC(=C(C=C1)N)N | C12H12N2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethyl acetamide | 25 ml | CN(C(C)=O)C | C4H9NO
product | 4-(5-phenoxybenzimidazole-2-yl)-3,5-dimethylpyrrole-2-carboxylic acid ethyl ester | 2.27 g, 76% | C(C)OC(=O)C=1NC(=C(C1C)C=1NC2=C(N1)C=CC(=C2)OC2=CC=CC=C2)C | C22H21N3O3
